US09315458B2
Alias; 1,5-anhydro-2,4-dideoxy-2-(6-(4-methoxybenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol
To a solution of methyl 2-formyl-5-(4-methoxybenzyl)-3,4-dimethylbenzoate (13.5 g) in THF (270 mL) were added (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (5.06 g) and anhydrous magnesium sulfate (9.99 g), and the mixture was stirred at room temperature for 5 hr. The insoluble substance was removed by filtration, and the filtrate was concentrated. The residue was diluted with methanol (220 mL)-THF (250 mL), sodium triacetoxyborohydride (18.3 g) was added thereto, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, the mixture was washed with water and saturated brine, and the organic layer was dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The resulting solid was washed with ethyl acetate to give the crude title compound (6.4 g). The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.85 g). The crude title compound and the title compound purified by column were combined, and recrystallized from ethanol to give the title compound (6.48 g).

reactant | methyl 2-formyl-5-(4-methoxybenzyl)-3,4-dimethylbenzoate | 13.5 g | C(=O)C1=C(C(=O)OC)C=C(C(=C1C)C)CC1=CC=C(C=C1)OC | C19H20O4
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 5.06 g | N[C@H]1COCC[C@@H]1O | C5H11NO2
reactant | magnesium sulfate | 9.99 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 270 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2,4-dideoxy-2-(6-(4-methoxybenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol | 0.85 g | COC1=CC=C(CC2=C(C(=C3CN(C(C3=C2)=O)[C@H]2COCC[C@@H]2O)C)C)C=C1 | C23H27NO4
